US07432258B2
a) Ethyl (2-oxo-1,3-benzoxazol-3(2H)-yl)acetate
A solution of 1,3-benzoxazol-2(3H)-one (676 mg, 5.0 mmol) in (5 mL) was added to a suspension of NaH (220 mg, 5.5 mmol) in DMF (5 mL) at room temperature, and the resulting solution was stirred for 1 h. Ethyl bromoacetate (0.55 mL, 5.0 mmol) was added to the reaction mixture, and stirring was continued for 2 h. The reaction was quenched with water (10 mL) and extracted with EtOAc (2×20 mL). The organic extracts were combined and washed with water, brine, and dried (Na2SO4). The solvent was removed under reduced pressure to give the title compound (1.14 g, >100%) as a brown solid. MS (ES) m/e 222 [M+H]+.

reactant | 1,3-benzoxazol-2(3H)-one | 5.0 mmol, 676 mg | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | NaH | 5.5 mmol, 220 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 5.0 mmol, 0.55 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl (2-oxo-1,3-benzoxazol-3(2H)-yl)acetate | 1.14 g, >100% | O=C1OC2=C(N1CC(=O)OCC)C=CC=C2 | C11H11NO4
